US08871945B2
Preparation of 1-(2,6-difluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid
A mixture of Methyl 1-(2,6-difluorobenzyl)-1H-1,2,3-triazole-4-carboxylate. (50 gms) and a solution of sodium hydroxide (11.76 gms in 100 ml water) were stirred at room temperature contents till it becomes clear. Hydrochloric acid (30 ml ) in DM water (70 ml) was charged to above reaction mass. Adjusted the PH of the reaction till 2-3 by adding the hydrochloric acid solution at 25-30° C. After the completion, reaction mass was filtered and dried the material at 65° C.-70° C. for 15 hours. Yield: 40 gms

reactant | Methyl 1-(2,6-difluorobenzyl)-1H-1,2,3-triazole-4-carboxylate | FC1=C(CN2N=NC(=C2)C(=O)OC)C(=CC=C1)F | C11H9F2N3O2
reactant | sodium hydroxide | 100 ml, 11.76 gms | [OH-].[Na+]
reactant | Hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 70 ml | O | H2O
product | 1-(2,6-difluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid | FC1=C(CN2N=NC(=C2)C(=O)O)C(=CC=C1)F | C10H7F2N3O2
